US06198007B1
400 ml of ethylene glycol were introduced initially under nitrogen and heated to 65° C. in a 2 l reaction vessel fitted with a stirrer. 162 g of molten 2,4-dinitrochlorobenzene and 586 g of the 12.6% strength mono-sodium ethylene glycolate solution in ethylene glycol obtained in Example 1 were metered in to this mixture simultaneously over the course of 5 hours. The mixture was then stirred for 1 hour at 65° C., and then 600 ml of water was added thereto. The precipitate which formed was filtered off and washed with 1000 ml of water and dried, giving 165.3 g of 2-(2′,4′-dinitro-phenoxy)-ethanol in a purity of 99.2%. Hence, a yield of 96.6% is achieved based on 2,4-dinitrochlorobenzene.

reactant | 2,4-dinitrochlorobenzene | 162 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | mono-sodium ethylene glycolate | C(CO)(=O)[O-].C=C.[Na+]
reactant | water | 600 ml | O | H2O
solvent | ethylene glycol | C(CO)O | C2H6O2
solvent | ethylene glycol | 400 ml | C(CO)O | C2H6O2
product | 2-(2′,4′-dinitro-phenoxy)-ethanol | 165.3 g, yield of 96.6% | [N+](=O)([O-])C1=C(OCCO)C=CC(=C1)[N+](=O)[O-] | C8H8N2O6
